US04939309
The Preparation of 2,2'-Dimethyl-1,1'-biphenyl Using Nitrogen Ligands
All of the following runs were made with 1 mmol NiBr2 and 24 mmol t-butylmagnesium chloride in THF at reflux for 16 hours. Protic ligands were converted to their magnesium salts by the addition of an equivalent amount of a Grignard reagent prior to addition of 2 -chlorotoluene.

reactant | t-butylmagnesium chloride | 24 mmol | C(C)(C)(C)[Mg]Cl
reactant | 2 -chlorotoluene | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | THF | C1CCOC1 | C4H8O
product | 2,2'-Dimethyl-1,1'-biphenyl | CC1=C(C=CC=C1)C1=C(C=CC=C1)C | C14H14
